US07700594B2
2-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-indole-4-carboxylic acid, methyl ester
Prepared according to a procedure analogous to that described for 7-chloro-2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-indole using 1H-indole-4-carboxylic acid, methyl ester.

reactant | 7-chloro-2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-indole | ClC=1C=CC=C2C=C(NC12)B1OC(C(O1)(C)C)(C)C | C14H17BClNO2
reactant | 1H-indole-4-carboxylic acid, methyl ester | N1C=CC=2C(=CC=CC12)C(=O)OC | C10H9NO2
product | 2-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-indole-4-carboxylic acid, methyl ester | CC1(OB(OC1(C)C)C=1NC=2C=CC=C(C2C1)C(=O)OC)C | C16H20BNO4
